US08003649B2
A mixture of tert-butyl (1S,5R)-3,8-diazabicyclo[3.2.1]octane-8-carboxylate and 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine was allowed to react by General Synthetic Method 3. The crude product was purified by hplc using a Waters XBridge Prep C18 OBD column (5μ silica, 19 mm diameter, 100 mm length) eluted with decreasingly polar mixtures of water (containing 1% aqueous ammonia) and acetonitrile as eluents to give tert-butyl (1S,5R)-3-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]-3,8-diazabicyclo[3.2.1]octane-8-carboxylate.

reactant | tert-butyl (1S,5R)-3,8-diazabicyclo[3.2.1]octane-8-carboxylate | [C@@H]12CNC[C@@H](CC1)N2C(=O)OC(C)(C)C | C11H20N2O2
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
product | tert-butyl (1S,5R)-3-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]-3,8-diazabicyclo[3.2.1]octane-8-carboxylate | FC(C1=NN=C2N1N=C(C=C2)N2C[C@@H]1CC[C@H](C2)N1C(=O)OC(C)(C)C)(F)F | C17H21F3N6O2
